US07405299B2
B. Preparation of 3-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo [1,2-b]pyrazol-3-yl]-1H-indole
Add potassium carbonate (75 mg, 0.55 mmol) to a solution of 1-benzenesulfonyl-3-[2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-1H-indole (120 mg, 0.27 mmol) in 3:1 methanol/water (1.2 mL). Reflux the reaction mixture for 16 h, cool to room temperature, and add toluene (50 mL). Concentrate in vacuo and purify by flash column chromatography, using the appropriate mixture of methylene chloride, chloroform, methanol, and concentrated aqueous ammonium hydroxide, to provide 6 mg (3% over 2 steps) of the title compound as a yellow solid.

reactant | potassium carbonate | 0.55 mmol, 75 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-benzenesulfonyl-3-[2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-1H-indole | 0.27 mmol, 120 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C25H20N4O2S
reactant | methanol water | 1.2 mL | CO.O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo [1,2-b]pyrazol-3-yl]-1H-indole | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CNC1=CC=CC=C21 | C19H16N4
